US03973022
11.9 g of 2-(2-thienyl)-6-methyl-quinoline together with 360 ml of carbon tetrachloride, 10.4 g of N-bromosuccinimide and 0.3 g of dibenzoyl peroxide are boiled for 15 hours under reflux. The reaction mixture is cooled and filtered off. Concentration of the filtrate yields 2-(2-thienyl)-6-bromomethyl-quinoline which melts at 95°C.

reactant | 2-(2-thienyl)-6-methyl-quinoline | 11.9 g | S1C(=CC=C1)C1=NC2=CC=C(C=C2C=C1)C | C14H11NS
reactant | N-bromosuccinimide | 10.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 360 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-thienyl)-6-bromomethyl-quinoline | S1C(=CC=C1)C1=NC2=CC=C(C=C2C=C1)CBr | C14H10BrNS
